US07727985B2
(S)-4-{[(2-Hydroxy-ethyl)-methyl-carbamoyl]-methyl}-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide
The desired compound was prepared according to Method F from [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid and 2-methylamino-ethanol in 55% yield.

reactant | [(S)-5-(6-Chloro-9H-beta-carbolin-8-ylcarbamoyl)-2,2-dimethyl-morpholin-4-yl]-acetic acid | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@@H]1COC(CN1CC(=O)O)(C)C | C20H21ClN4O4
reactant | 2-methylamino-ethanol | CNCCO | C3H9NO
product | (S)-4-{[(2-Hydroxy-ethyl)-methyl-carbamoyl]-methyl}-6,6-dimethyl-morpholine-3-carboxylic acid (6-chloro-9H-beta-carbolin-8-yl)-amide | 55% yield | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1N(CC(OC1)(C)C)CC(N(C)CCO)=O | C23H28ClN5O4
